US09212182B2
To a solution of (E)-ethyl 3-(2-amino-5-bromophenyl)acrylate (620 g, 2.29 mol, 1.0 equiv) in 1,4-dioxane (4.0 L) was added DIPEA (1.26 L, 8.88 mol, 3.9 equiv, GLR) and degassed with nitrogen for 20 mins. XantPhos (92.9 g, 106 mmol, 0.05 equiv, GLR), and tris(dibenzylideneacetone)dipalladium (84 g, 91.0 mmol, 0.04 equiv, Hindustan Platinum) was added to the reaction mixture. The mixture was purged with nitrogen and heated to 80° C. for 30 mins. The reaction was cooled to RT and benzyl mercaptan (455.5 g, 3.67 mol, 1.6 equiv, Alfa Aesar) was added and the reaction was heated at 80° C. for an additional 4 h. The reaction was cooled to room temperature and diluted with ethyl acetate (4.0 L). The mixture was filtered through celite and the celite bed was washed with ethyl acetate (2×1.0 L). The filtrate was concentrated under reduced pressure to obtain the crude material which was purified by chromatography (silica gel; mesh size 60-120, elution 0-40% ethyl acetate and petroleum ether) to obtain (E)-ethyl 3-(2-amino-5-(benzylthio)phenyl)acrylate (520 g, 72.0%), as yellow solid. TLC solvent system: 30% ethyl acetate in hexanes. Product's Rf: 0.4. MS (ESI, positive ion) m/z; 314.1 (M+1). NMR (400 MHz, DMSO) δ 7.79 (d, J=16.1 Hz, 1H), 7.37 (d, J=2.0 Hz, 1H), 7.25-7.17 (m, 5H) 7.10 (dd, J=8.4, 2.1 Hz, 1H), 6.61 (d, J=8.3 Hz, 1H), 6.32 (d, J=15.2 Hz, 1H), 5.75 (s, 2H), 4.20 (q, J=7.2 Hz, 2H), 4.01 (s, 2H), 1.27 (t, J=7.2 Hz, 3H).

reactant | (E)-ethyl 3-(2-amino-5-bromophenyl)acrylate | 2.29 mol, 620 g, 1.0 equiv | NC1=C(C=C(C=C1)Br)/C=C/C(=O)OCC | C11H12BrNO2
reactant | DIPEA | 8.88 mol, 1.26 L, 3.9 equiv | CCN(C(C)C)C(C)C | C8H19N
reactant | benzyl mercaptan | 3.67 mol, 455.5 g, 1.6 equiv | C(C1=CC=CC=C1)S | C7H8S
solvent | 1,4-dioxane | 4.0 L | O1CCOCC1 | C4H8O2
solvent | ethyl acetate | 4.0 L | C(C)(=O)OCC | C4H8O2
catalyst | tris(dibenzylideneacetone)dipalladium | 91.0 mmol, 84 g, 0.04 equiv | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
catalyst | XantPhos | 106 mmol, 92.9 g, 0.05 equiv | CC1(C2=C(C(=CC=C2)P(C3=CC=CC=C3)C4=CC=CC=C4)OC5=C(C=CC=C51)P(C6=CC=CC=C6)C7=CC=CC=C7)C | C39H32OP2
product | (E)-ethyl 3-(2-amino-5-(benzylthio)phenyl)acrylate | 520 g, 72.0% | NC1=C(C=C(C=C1)SCC1=CC=CC=C1)/C=C/C(=O)OCC | C18H19NO2S
